US08871758B2
N-(tert-Butyl)-2-(4-fluorophenyl)-2-oxoethanesulfonamide
Under inert gas, 1.00 g of N-tert-butylmethanesulfonamide were initially charged in 20 ml of THF and then, at a temperature of −78° C., 9.00 ml of a 1.6 N butyllithium solution in hexane were added dropwise. After stirring with ice cooling for 5 minutes, the mixture was cooled again to −78° C., and a solution, likewise cooled to −78° C., of 1.33 ml of methyl 4-fluorobenzoate in 10 ml of THF was added dropwise. The mixture was allowed to come to room temperature and stirred for 1 hour. The reaction solution was admixed with 0.82 ml of acetic acid, diluted with 50 ml of ethyl acetate, and washed with 40 ml of saturated aqueous sodium hydrogencarbonate solution and 40 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (662 mg) with a molecular weight of 273.3 g/mol (C12H16FNO3S).

reactant | N-tert-butylmethanesulfonamide | 1.00 g | C(C)(C)(C)NS(=O)(=O)C | C5H13NO2S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | methyl 4-fluorobenzoate | 1.33 ml | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
reactant | acetic acid | 0.82 ml | C(C)(=O)O | C2H4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(tert-Butyl)-2-(4-fluorophenyl)-2-oxoethanesulfonamide | 662 mg | C(C)(C)(C)NS(=O)(=O)CC(=O)C1=CC=C(C=C1)F | C12H16FNO3S
